US06586617B1
Synthesis of N-Ethyl-4′-methylthio-2′-nitro-p-toluenesulfonanilide (Compound No. 227)
To a suspension of sodium hydride (65%, 0.21 g (5.76 mmol)) in 4.0 ml of DMF, 2′-nitro-4′-methylthio-p-toluenesulfonanilide (1.50 g (4.43 mmol)) was added with stirring at room temperature. To the resulting mixture, after 30 minutes' stirring at room temperature, ethyl iodide (0.52 ml (6.21 mmol)) was added dropwise and the mixture was stirred at room temperature for 16 hours. Then, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium bicarbonate, dilute hydrochloric acid, and saturated aqueous solution of sodium chloride successively. The ethyl acetate layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was then subjected to silica gel column chromatography with chloroform as eluent to give 1.04 g (64%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 5.76 mmol, 0.21 g | [H-].[Na+]
reactant | 2′-nitro-4′-methylthio-p-toluenesulfonanilide | 4.43 mmol, 1.50 g | [N+](=O)([O-])C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)SC | C14H14N2O4S2
reactant | ethyl iodide | 6.21 mmol, 0.52 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | N-Ethyl-4′-methylthio-2′-nitro-p-toluenesulfonanilide | 1.04 g, 64% | C(C)N(C1=C(C=C(C=C1)SC)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C16H18N2O4S2
